US07361677B2
4-[(4-Benzyloxy-3-chloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02129, STX446)
Sodium hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (20 mL) at r.t. The mixture was stirred for 1 hour at this temperature and 1-benzyloxy-4-bromomethyl-2-chloro-benzene (CAB02128, 1.56 g, 5.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (75 mL) was added. The mixture was transferred into a separation funnel and washed with water (two times 100 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was suspended in 2-propanol (20 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 1.38 g (66%). 1H-NMR (400 MHz, d6-DMSO) δ=4.99 (s, 2H), 5.17 (s, 2H), 6.76 (d, J=9.0 Hz, 2H), 7.16 (d, J−8.6 Hz, 1H), 7.20 (dd, J=8.6, 2.2 Hz, 1H), 7.32-7.47 (m, 6H), 7.76 (d, J=9.0 Hz, 2H), 8.81 (s, 2H). LRMS (FAB+): 416.1 (100, [M+H]+).

reactant | Sodium hydride | 5.0 mmol, 200 mg | [H-].[Na+]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | 1-benzyloxy-4-bromomethyl-2-chloro-benzene | 5.0 mmol, 1.56 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CBr)Cl | C14H12BrClO
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[(4-Benzyloxy-3-chloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)Cl | C23H18ClN5O
